US08222416B2
To a mixture of 5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine (7.5 g, 40.3 mmol), sodium hydroxide (4.84 g, 120.9 mmol) and tetrabutylammonium bromide (390 mg, 1.21 mmol) in dichloromethane (150 mL) at 0° C. was added benzenesulfonyl chloride (10.64 g, 60.45 mmol) dropwise. After stirring for 12 h at room temperature, washed with water (2×30 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 50% dichloromethane/hexanes) to afford 1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine (6.35 g, 48%): LC/MS m/e calcd for C14H9F3N2O2S [M+H]+ 327.30, observed 326.8.

reactant | 5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine | 40.3 mmol, 7.5 g | FC(C=1C=C2C(=NC1)NC=C2)(F)F | C8H5F3N2
reactant | sodium hydroxide | 120.9 mmol, 4.84 g | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 60.45 mmol, 10.64 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | tetrabutylammonium bromide | 1.21 mmol, 390 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine | 6.35 g, 48% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C(F)(F)F | C14H9F3N2O2S
